US07214791B2
83 g of cis-2-cyanovinyl urea was dissolved in 200 ml hexamethyldisilazane and 5 ml of trimethylchlorosilane and 1 g of lithium chloride were added. N2 was bubbled and the solution was refluxed until clear. Hexamethyldisilazane was then distilled off and N,N-bistrimethylsilyl-(cis-2-cyanovinylurea) was obtained, which was then dissolved in 200 ml anhydrous dichloromethane. To the solution, 1 g of CdCl2 was added and the solution was stirred with N2 bubbling.

reactant | cis-2-cyanovinyl urea | 83 g | C(#N)\C=C/NC(=O)N | C4H5N3O
reactant | trimethylchlorosilane | 5 ml | C[Si](Cl)(C)C | C3H9ClSi
reactant | lithium chloride | 1 g | [Cl-].[Li+]
solvent | hexamethyldisilazane | 200 ml | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
product | N,N-bistrimethylsilyl-(cis-2-cyanovinylurea) | C[Si](N(C(=O)N\C=C/C#N)[Si](C)(C)C)(C)C | C10H21N3OSi2
